US04382143
Preparation of ethyl 4-hexadecylamino-1-methyl-2-pyrrolecarboxylate
A solution of 1.0 g. of ethyl 4-hexadecanamido-1-methyl-2-pyrrolecarboxylate in 10 ml. of dry tetrahydrofuran is added dropwise to a solution of 6 ml. of 1 M borane in tetrahydrofuran under nitrogen and the pale yellow solution is heated to reflux overnight. After cooling and acidification with 1 N aqueous hydrochloric acid followed by neutralization with saturated sodium bicarbonate solution, the solution is extracted with ether. The extract is dried over anhydrous magnesium sulfate and evaporated. The residue is recrystallized from hexane to yield the product as a white solid.

reactant | ethyl 4-hexadecanamido-1-methyl-2-pyrrolecarboxylate | C(CCCCCCCCCCCCCCC)(=O)NC=1C=C(N(C1)C)C(=O)OCC | C24H42N2O3
reactant | borane | 1 M | B | BH3
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | ethyl 4-hexadecylamino-1-methyl-2-pyrrolecarboxylate | C(CCCCCCCCCCCCCCC)NC=1C=C(N(C1)C)C(=O)OCC | C24H44N2O2
